US07517875B2
After dissolving 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid methyl ester (1 g, 2.33 mmol) in anhydrous tetrahydrofuran (30 ml) under a nitrogen stream, the mixture was cooled to 0° C. Next, 60% sodium hydride (187 mg, 4.89 mmol) was added and the mixture was stirred at 0° C. for 72 minutes. 2-(Trimethylsilyl)ethoxymethyl chloride (815.8 mg, 4.89 mmol) was further added, the mixture was stirred at 0° C. for 30 minutes, and then water was added. The solution was extracted with ethyl acetate and then with dichloromethane, and each extract was washed with saturated brine and then combined and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=2/3→3/2→1/0) to obtain 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboxylic acid methyl ester. The compound was identified by LC-MS.

reactant | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazole-5-carboxylic acid methyl ester | 2.33 mmol, 1 g | COC(=O)C1=CC2=C(NC(=N2)NCC2CCN(CC2)CC2=CC=CC3=CC=CC=C23)C=C1 | C26H28N4O2
reactant | sodium hydride | 4.89 mmol, 187 mg | [H-].[Na+]
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 4.89 mmol, 815.8 mg | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | O | H2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C(=N2)N(COCC[Si](C)(C)C)CC2CCN(CC2)CC2=CC=CC3=CC=CC=C23)COCC[Si](C)(C)C)C=C1 | C38H56N4O4Si2
